US04618683
1-Tosyloxy-3-(3-methoxyphenyl)-propane
A solution of 3-(3-methoxyphenyl)-propanol (69 g, 0.42 mole) and pyridine (400 mL) was stirred at 5° C. as p-toluenesulfonyl chloride (87 g, 0.46 mole) was added portionwise. The reaction mixture was stirred at room temperature for 2 hours, then was poured onto ice/concentrated HCl and was extracted with ether. The extracts were washed with 2N HCl, wawter, saturated aqueous NaCl, dried (MgSO4), filtered, and evaporated to yield 126 g yellow oil, (95%); M+ 320.

reactant | 3-(3-methoxyphenyl)-propanol | 0.42 mole, 69 g | COC=1C=C(C=CC1)CCCO | C10H14O2
reactant | p-toluenesulfonyl chloride | 0.46 mole, 87 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 400 mL | N1=CC=CC=C1 | C5H5N
product | 1-Tosyloxy-3-(3-methoxyphenyl)-propane | 126 g, 95% | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCC1=CC(=CC=C1)OC | C17H20O4S
